US07700625B2
Methyl 2,4-bis-benzyloxy-5-isopropenyl-benzoate (700 mg, 1.80 mmol) was dissolved in methanol (20 ml), a solution of potassium hydroxide (286 mg, 5.1 mmol) in water (4 ml) was added and the mixture was stirred and held at reflux for 3 hours. Upon cooling the solvent was removed in vacuo and the mixture acidified to pH 2 or below by the addition of 2M hydrochloric acid. The mixture was extracted with dichloromethane, the organic layer was separated and the solvent removed in vacuo to afford 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid (600 mg, 89%) as a colourless solid. 1H NMR (DMSO-d6) 7.52 (2H, d), 7.47-7.29 (9H, m), 6.82 (1H, s), 5.20 (2H, s), 5.17 (2H, s), 5.06 (1H, s), 5.04 (1H, s), 2.03 (3H, s). MS: [M+H]+ 375.

reactant | Methyl 2,4-bis-benzyloxy-5-isopropenyl-benzoate | 1.80 mmol, 700 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C25H24O4
reactant | potassium hydroxide | 5.1 mmol, 286 mg | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid | 600 mg, 89% | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C24H22O4
